US06528525B1
(c) Ethyl 2-(4-isopropylphenoxy)-2-methyl-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate
In a similar manner to that described in Reference example 3(e), a reaction was carried out using ethyl 3-(4-hydroxyphenyl)-2-(4-isopropylphenoxy)-2-methylpropionate (1.00 g), which is the product of Reference example 9(b), 2-(2-bromoethoxy)tetrahydropyran (1.84 g) and potassium carbonate (1.62 g) in dimethylacetamide and the reaction mixture was treated to afford the desired compound (1.06 g) as a syrup.

reactant | ethyl 3-(4-hydroxyphenyl)-2-(4-isopropylphenoxy)-2-methylpropionate | 1.00 g | OC1=CC=C(C=C1)CC(C(=O)OCC)(C)OC1=CC=C(C=C1)C(C)C | C21H26O4
reactant | 2-(2-bromoethoxy)tetrahydropyran | 1.84 g | BrCCOC1OCCCC1 | C7H13BrO2
reactant | potassium carbonate | 1.62 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | Ethyl 2-(4-isopropylphenoxy)-2-methyl-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate | 1.06 g | C(C)(C)C1=CC=C(OC(C(=O)OCC)(CC2=CC=C(C=C2)OCCOC2OCCCC2)C)C=C1 | C28H38O6
